* source PROJECT 1
D_D1         N00101 N00108 D1N4148 
V_V1         N00101 0  AC 3.8
+SIN 0 3.9 1kHz 0 0 0
C_C1         0 N00108  25u  TC=0,0 
R_R1         0 N00108  300 TC=0,0 
D_D2         N00512 N00108 D1N4148 
V_V2         N00512 0  AC -3.9
+SIN 0 -3.9 1kHz 0 0 0
